US05173493
To a solution of 7-[(acetoxy)(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]-10-ethyl-8,9-dihydropyrido[1,2-a]indol-6(7H)-one (2.06 g) in toluene (30 ml) at room temperature was added 1,8-diazabicyclo[5.4.0]undec-7-ene (1.2 ml). After being stirred at 75° C. for 3 hours, the solution was diluted with chilled water. The organic layer separated was washed with aqueous oxalic acid solution, water, and brine, dried over anhydrous sodium sulfate, and evaporated in vacuo. The residue was triturated with methanol and filtered to give 10-ethyl-8,9-dihydro-7-[(5-methyl-1-trityl-1H-imidazol-4-yl)methylene]pyrido[1,2-a]indol-6(7H)-one (1.41 g).

reactant | 7-[(acetoxy)(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]-10-ethyl-8,9-dihydropyrido[1,2-a]indol-6(7H)-one | 2.06 g | C(C)(=O)OC(C1CCC=2N(C3=CC=CC=C3C2CC)C1=O)C=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C40H37N3O3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.2 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 10-ethyl-8,9-dihydro-7-[(5-methyl-1-trityl-1H-imidazol-4-yl)methylene]pyrido[1,2-a]indol-6(7H)-one | 1.41 g | C(C)C1=C2N(C3=CC=CC=C13)C(C(CC2)=CC=2N=CN(C2C)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C38H33N3O
